US04806553
A mixture of N-(2-chloro-5-pyridylmethyl)-N-methylethylenediamine (2.0 g), 1-nitro-2,2-bis(methylthio)ethylene (1.7 g) and ethanol (40 ml) was refluxed for 5 hours with stirring. The reaction mixture was concentrated to about half of its volume, and cooled. The precipitated crystals were collected by filtration, washed with a small amount of ethanol, and dried to give the desired N-(2-chloro-5-pyridylmethyl)-N-methyl-N'-(1-methylthio-2-nitrovinyl)ethylenediamine (1.8 g) having a melting point of 93° to 95° C.

reactant | N-(2-chloro-5-pyridylmethyl)-N-methylethylenediamine | 2.0 g | ClC1=NC=C(C=C1)CN(CCN)C | C9H14ClN3
reactant | 1-nitro-2,2-bis(methylthio)ethylene | 1.7 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-(2-chloro-5-pyridylmethyl)-N-methyl-N'-(1-methylthio-2-nitrovinyl)ethylenediamine | 1.8 g | ClC1=NC=C(C=C1)CN(CCNC(=C[N+](=O)[O-])SC)C | C12H17ClN4O2S
